US05663447
2,2-Dimethyl-6-benzylidene-cyclohexanone
66 g of 85% strength potassium hydroxide solution and 750 ml of tert-butanol were placed in a 1 l 4-necked flask, and the mixture was heated briefly at reflux with stirring. Then 8.3 g of potassium iodide were added, the mixture was cooled to room temperature and 200 g of 2-methyl-6-benzylidene-cyclohexanone were added. 101 g of methyl chloride were passed in at room temperature over 8 hours. The mixture was subsequently stirred at room temperature for 8 hours, and then 450 ml of tert-butanol were distilled off. 500 ml of water were added to the residue, the mixture was stirred thoroughly, and the product which separates out was filtered off with suction. Recrystallization from methanol gave 161 g (75% of theory) of pure product with a melting point of 79°-81° C.,

reactant | potassium hydroxide | [OH-].[K+]
reactant | potassium iodide | 8.3 g | [I-].[K+]
reactant | 2-methyl-6-benzylidene-cyclohexanone | 200 g | CC1C(C(CCC1)=CC1=CC=CC=C1)=O | C14H16O
reactant | methyl chloride | 101 g | CCl | CH3Cl
solvent | tert-butanol | 750 ml | C(C)(C)(C)O | C4H10O
product | 2,2-Dimethyl-6-benzylidene-cyclohexanone | CC1(C(C(CCC1)=CC1=CC=CC=C1)=O)C | C15H18O
